US04997836
To a solution of 4.5N HCl-ethyl acetate solution (10 ml) is added methyl 1-(2,3-dimethoxy-6,7-dihydro- 5H-benzocyclohepten-8-ylcarbonyl)-4-tert-butoxycarbonylpiperazine-2-carboxylate (1.7 g). The reaction mixture is left standing at room temperature for 5 hours. Then the solvent is distilled off under reduced pressure. To the residue is added ethyl ether. Resulting precipitates are collected and dried to afford methyl 1-(2,3-dimethoxy-6,7-dihydro-5H-benzo-cyclohepten-8-ylcarbonyl}piperazine-2-carboxylate hydrochloride as colorless powder (1.2 g).

reactant | methyl 1-(2,3-dimethoxy-6,7-dihydro- 5H-benzocyclohepten-8-ylcarbonyl)-4-tert-butoxycarbonylpiperazine-2-carboxylate | 1.7 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2C(CN(CC2)C(=O)OC(C)(C)C)C(=O)OC)C1)OC | C25H34N2O7
reactant | HCl ethyl acetate | 4.5N, 10 ml | Cl.C(C)(=O)OCC
product | methyl 1-(2,3-dimethoxy-6,7-dihydro-5H-benzo-cyclohepten-8-ylcarbonyl}piperazine-2-carboxylate hydrochloride | 1.2 g | Cl.COC=1C(=CC2=C(C=C(CCC2)C(=O)N2C(CNCC2)C(=O)OC)C1)OC | InChI=1S/C20H26N2O5.ClH/c1-25-17-10-13-5-4-6-14(9-15(13)11-18(17)26-2)19(23)22-8-7-21-12-16(22)20(24)27-3;/h9-11,16,21H,4-8,12H2,1-3H3;1H
